US05391817
3,4-Dihydroxybenzaldehyde (5 g., 36.2 mmol, 1 equiv.) is dissolved in 80 mL of acetone. n-Pentytbromide (4.49 mL, 36.2 mmol, 1 equiv.) is added, followed by anhydrous potassium carbonate (5 g., 36.2 mmol, 1 equiv.). The mixture is stirred at room temperature for 3 days, and then poured into half-saturated ammonium chloride solution. The mixture is extracted thrice with ether, and the extracts are washed with brine, dried (MgSO4), and evaporated. Chromatography on silica gel using EtOAc/hexane affords 3-hydroxy-4-pentyloxy-benzaldehyde (0.820 g., 3.94 mmol, 11%): mp=55°-56° C.; UVmax (EtOH) 208 nm (ε=24443), 232 nm (ε=23049), 272 nm (ε=16105), 312 nm (ε=13140); 1H NMR (300 MHz, CDCl3) δ 9.80 (s, 1H, CHO), 7.42-7.24 (m, 2H, ArH), 6.94 (d, J=8 Hz, 1H, ArH), 5.82 (s, 1H, OH), 4.10 (t, J=7 Hz, 2H, OCH2R), 1.88-1.79 (m, 2H, OCH2CH2R), 1.49-1.31 (m, 4H, pentyl), 0.92 (t, J=7 Hz, 3H, RCH3); 13C NMR (75 MHz, CDCl3) δ 191.06 (C=O), 151.30, 146.16, 130.40, 124.55, 113.99, 110.84, 69.27, 28.67, 28.04, 22.39, 13.97; IR (KBr) 3400, 2950, 1680, 1600, 1580, 1280, 1250 cm-1 ; MS (DCI) m/e 209 (MH+). Anal. Calcd for C12H16O3 : C, 69.23; H, 7.69. Found: C, 69.09; H, 7.65.

reactant | 3,4-Dihydroxybenzaldehyde | 36.2 mmol, 5 g, 1 equiv. | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | potassium carbonate | 36.2 mmol, 5 g, 1 equiv. | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetone | 80 mL | CC(=O)C | C3H6O
product | 3-hydroxy-4-pentyloxy-benzaldehyde | 3.94 mmol, 0.820 g, 11% | OC=1C=C(C=O)C=CC1OCCCCC | C12H16O3
